US04350692
A solution of 7-[D-N-[2-{2-N-methyl-N-phenylcarbamoyl)phenoxy}acetyl]-2-phenylglycinamido]cephalosporanic acid (3 g.), 1-methyl-1H-tetrazole-5-thiol (0.58 g.) and sodium bicarbonate (0.76 g.) in water (100 ml.) and acetone (50 ml.) was stirred at 65° to 70° C. for 6 hours, meanwhile the solution was kept at pH 7 to 7.2. After removing the insoluble substance by filtration, water was added to the filtrate to a total volume of 300 ml., treated with activated charcoal, adjusted to pH 2.0 with 10% hydrochloric acid under cooling and then extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and then evaporated under reduced pressure the residue was crystallized with a small amount of ethyl acetate and collected by filtration to give 7-[D-N-[2-}2-(N-methyl-N-phenylcarbamoyl)phenoxy}acetyl]-2-phenylglycinamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem- 4-carboxylic acid (0.69 g.).

reactant | cephalosporanic acid | 3 g | CC(=O)OCC1=C(N2[C@@H](CC2=O)SC1)C(=O)O | C10H11NO5S
reactant | 1-methyl-1H-tetrazole-5-thiol | 0.58 g | CN1N=NN=C1S | C2H4N4S
reactant | sodium bicarbonate | 0.76 g | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem- 4-carboxylic acid | 0.69 g | CC(C=1CS[C@H]2N(C1C(=O)O)C(C2)=O)SC2=NN=NN2 | C10H11N5O3S2
